US08258135B2
In a 2-5 mL Emrys™ process vial, the ethyl 1-{[4-(3-bromopyridin-2-yl)-4-cyanopiperidin-1-yl]methyl}-4-oxo-4H-quinolizine-3-carboxylate (50 mg, 0.10 mmol) was dissolved in 0.40 mL of anhydrous THF and treated with potassium vinyltrifluoroborate (40.6 mg, 0.30 mmol) and 1M cesium carbonate solution (0.20 mL, 0.20 mmol). The reaction was purged with a stream of nitrogen, charged with bis(tri-tert-butylphosphine)palladium(0) (5.2 mg, 0.010 mmol), and heated via Emrys Optimizer™ microwave to 160° C. for 10 minutes. Filtration and solvent removal provided material, which was subjected to preparative reverse phase HPLC. Collection of product containing fractions and removal of solvent afforded the ethyl 1-{[4-cyano-4-(3-vinylpyridin-2-yl)piperidin-1-yl]methyl}-4-oxo-4H-quinolizine-3-carboxylate.

reactant | ethyl 1-{[4-(3-bromopyridin-2-yl)-4-cyanopiperidin-1-yl]methyl}-4-oxo-4H-quinolizine-3-carboxylate | 0.10 mmol, 50 mg | BrC=1C(=NC=CC1)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC)C#N | C24H23BrN4O3
reactant | potassium vinyltrifluoroborate | 0.30 mmol, 40.6 mg | C(=C)[B-](F)(F)F.[K+]
reactant | cesium carbonate | 0.20 mmol, 1M, 0.20 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 0.40 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.010 mmol, 5.2 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | ethyl 1-{[4-cyano-4-(3-vinylpyridin-2-yl)piperidin-1-yl]methyl}-4-oxo-4H-quinolizine-3-carboxylate | C(#N)C1(CCN(CC1)CC=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC)C1=NC=CC=C1C=C | C26H26N4O3
